* CKS32F103 Professional ECU Netlist
* Format: SPICE/Generic Netlist for Fritzing Import

* --- POWER SECTION ---
V_BATT 1 0 12V
D_REV 1 2 1N5408
D_TVS 2 0 5KP15A
U_REG5 2 0 3 LM2940-5.0
C_IN 2 0 470uF
C_OUT 3 0 100uF
U_REG3 3 0 4 AMS1117-3.3
C_REG3 4 0 10uF

* --- MCU SECTION (CKS32F103CBT6) ---
* Nodes: 4=3.3V, 0=GND
X_MCU 4 0 MCU_CKS32F103

* --- SENSOR INPUTS ---
* TPS Input
R_TPS_PROT 5 6 1k
C_TPS_FILT 6 0 100nF
D_TPS_ZEN 6 0 3.3V_ZENER
* MAP Input
R_MAP_PROT 7 8 1k
C_MAP_FILT 8 0 100nF
D_MAP_ZEN 8 0 3.3V_ZENER

* --- ACTUATOR OUTPUTS ---
* Injector 1
R_INJ1_GATE 9 10 100
Q_INJ1 11 10 0 IRLZ44N
R_INJ1_PD 10 0 10k
* Ignition 1
R_IGN1_PROT 12 13 220
Q_IGN1 14 13 0 ISL9V5036P3

* --- NODE MAPPING ---
* 0: GND
* 1: 12V_BATT
* 2: 12V_PROTECTED
* 3: 5V_RAIL
* 4: 3.3V_RAIL
* 5: TPS_SENSOR_SIGNAL
* 6: MCU_PA2 (TPS_ADC)
* 7: MAP_SENSOR_SIGNAL
* 8: MCU_PA3 (MAP_ADC)
* 9: MCU_PB6 (INJ1_PWM)
* 10: INJ1_MOSFET_GATE
* 11: INJ1_OUTPUT_TO_LOAD
* 12: MCU_PA8 (IGN1_TRIG)
* 13: IGN1_IGBT_GATE
* 14: IGN1_OUTPUT_TO_COIL
